US06875771B2
2-(4-Chloro-2,5-dimethyl-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile
The titled compound was prepared in an analogous fashion to Intermediate 2 except that 2-(2,5-dimethyl-4-chlorobenzenesulfonyl) acetonitrile was utilized in place of 2-(4-chlorobenzenesulfonyl) acetonitrile.

reactant | 2-(2,5-dimethyl-4-chlorobenzenesulfonyl) acetonitrile | CC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)CC#N | C10H10ClNO2S
reactant | 2-(4-chlorobenzenesulfonyl) acetonitrile | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
product | 2-(4-Chloro-2,5-dimethyl-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile | ClC1=CC(=C(C=C1C)S(=O)(=O)C(C#N)=C(S(=O)(=O)C)S(=O)(=O)C)C | C13H14ClNO6S3
